US07192968B2
(±)-N-Formyl-(4-chlorophenyl)alanine methyl ester
(±)-(4-Chlorophenyl)alanine methyl ester hydrochloride (2.00 g) was suspended in dichloromethane (20 ml), and 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride (1.60 g), 1-hydroxybenzotriazole monohydrate (1.23 g), N-methylmorpholine (1.90 ml) and formic acid (0.30 ml) were added to stir the mixture for 15 minutes. After a process in which formic acid (0.30 ml) was additionally added to stir the mixture for 15 minutes was repeated 3 times, the reaction mixture was diluted with dichloromethane. After an ogranic layer was washed with water and then dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (dichloromethane methanol=40:1) to obtain the title compound (1.21 g) as a yellow oil.

reactant | (±)-(4-Chlorophenyl)alanine methyl ester hydrochloride | 2.00 g | Cl.COC([C@@H](NC1=CC=C(C=C1)Cl)C)=O
reactant | 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride | 1.60 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 1.23 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 1.90 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | formic acid | 0.30 ml | C(=O)O | CH2O2
solvent | formic acid | 0.30 ml | C(=O)O | CH2O2
product | (±)-N-Formyl-(4-chlorophenyl)alanine methyl ester | 1.21 g | COC([C@@H](N(C=O)C1=CC=C(C=C1)Cl)C)=O | C11H12ClNO3
